US07026349B2
a) 2-Chloro-5-nitrophenol
2-Chloro-5-nitroanisole (310 g, 1.7 mol) was taken up in a mixture of 48% HBr (1.5 L) and AcOH (1.2 L) and heated at reflux for 3 days. The dark solution was allowed to cool to room temperature, poured into ice water (10 L), and let stand for 3 h. The resultant dull yellow solid was filtered, washed with water, and dried in vacuo (230 g, 79%): mp 115–117° C.

reactant | 2-Chloro-5-nitroanisole | 1.7 mol, 310 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6ClNO3
solvent | HBr | 1.5 L | Br | BrH
solvent | AcOH | 1.2 L | CC(=O)O | C2H4O2
product | 2-Chloro-5-nitrophenol | ClC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H4ClNO3
